Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fevers/chills
 
Major Surgical or Invasive Procedure:
Open Transverse Colectomy

 
History of Present Illness:
This is a ___ year-old male with a history of dementia, 
hypertension, diabetes who was just d/c from ___ yesterday 
post gi bleed; back at dementia unit in ASSISTED LIVING and 
found to have shaking chills and temp to 104; given tylenol and 
ambulance called to transfer back to ___. Pt underwent egd and 
source of bleeding was identified in his stomach (dieulafoy's 
lesion, see reports above) and clipped. The bleeding resolved. 
He will undergo colonscopy as outpatient to further work-up 
anemia and guiac-positive stools. On arrival at the ED pt has 
dementia but has no specific complaint. he has a stable vital 
but temp to 102.5. nl wcc and hct at baseline. nl chem7. ua -ve. 
cxr -ve. ct head negative for acute process. lp negative. pt was 
cultured and started on ceftriaxone and vanco. he's admitted for 
further care.
 
Past Medical History:
#. Dementia  
#. Diabetes mellitus  
#. Hypertension  
#. Hearing loss  
#. H/o delerium  
 
Social History:
___
Family History:
NC.  None given by patient or known by power of attorney.
 
Physical Exam:
Vitals: hr 73/min, bp 128/68/min, rr 16/min, sating 100% on 2l, 
temp 98.7  
GEN: Elderly male, NAD  
HEENT: EOMI, PERRL, pale conjunctivae, MMM, OP Clear  
NECK: Supple, no LAD  
COR: RRR, ___ systolic murmur at RUSB, normal S1 S2, radial 
pulses +2  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, no HSM, no masses  
EXT: No C/C/E, no palpable cords  
NEURO: Oriented to person only. Moves all 4 extremities. Able to 
stand with some assistance, but gait not assessesed.  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 
 

 
Pertinent Results:
___ 07:55PM CEREBROSPINAL FLUID (CSF)  PROTEIN-91* 
GLUCOSE-114
___ 07:55PM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-0 POLYS-0 
BANDS-4 ___ ___ 03:38PM   LACTATE-2.3*
___ 03:20PM   GLUCOSE-222* UREA N-22* CREAT-1.5* SODIUM-137 
POTASSIUM-5.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-15
___ 03:20PM   LIPASE-24
___ 03:20PM   ALT(SGPT)-17 AST(SGOT)-15 ALK PHOS-62 TOT 
BILI-0.3
___ 03:20PM   ALBUMIN-3.6
___ 03:20PM   WBC-5.0 RBC-2.91* HGB-7.5* HCT-23.4* MCV-80* 
MCH-25.8* MCHC-32.2 RDW-14.2
___ 03:20PM   NEUTS-89.9* BANDS-0 LYMPHS-6.7* MONOS-2.6 
EOS-0.7 BASOS-0.2
___ 03:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:20PM   ___ PTT-26.9 ___

CXR: IMPRESSION: No acute cardiopulmonary process.

CT Head:  IMPRESSION: 
1. No acute intracranial process. 
2. Moderate ventricular enlargement and sulcal prominence could 
be 
attributable to age-associated involutionary changes with 
associated chronic 
microangiopathic white matter hypoattenuation. Correlate with 
lumpbar 
puncture opening pressure. 
.
Radiology Report CT ABDOMEN W/CONTRAST Study Date of ___ 
1:42 ___ 
IMPRESSION: 
1. Long segment of irregular, enhancing thickened transverse 
colon wall. The 
differential diagnosis for this finding includes neoplasm such 
as lymphoma or 
primary GI malignancy. Inflammatory bowel disease would be 
unusual in this 
age group. This appearance would be also unusual for an 
infectious etiology 
such as C. diff colitis. Correlation with endoscopy recommended. 

2. Bowel wall thickening at the rectosigmoid junction likely 
represents 
proctitis. 
3. An 8-mm hypodense focus within the right kidney, too small to 

characterized, likely represents a simple cyst. 
.
___ C-scope
Protruding Lesions A single flat polyp of benign appearance was 
found in the distal sigmoid colon. Cold forceps biopsies were 
performed for histology at the distal sigmoid colon. A fungating 
mass of malignant appearance was found at the transverse colon. 
The mass caused a complete obstruction. The scope could not 
traverse the lesion and the examination was interrupted. Cold 
forceps biopsies were performed for histology at the transverse 
colon.  
.
SPECIMEN SUBMITTED: G.I. BIOPSIES (2 JARS)
DIAGNOSIS: 
Colonic mucosal biopsies, two:
A. Transverse, mass:
Adenocarcinoma.
B. Distal sigmoid, polyp:
Fragment of colonic mucosa with hyperplastic features.
.
Radiology Report ABDOMEN (SUPINE & ERECT) Study Date of ___ 
8:57 ___  
IMPRESSION: Distended loops of air-filled bowel consistent with 
ileus. Stool 
within the descending colon. Pneumoperitoneum from recent 
surgery. 
 

 

 
Brief Hospital Course:
___ yo M s/p egd for gi bleed on ___, presenting with fever to 
104 on ___ late evening without clear source.  Pt basically 
with only recorded complaints of chills and revealing no other 
symptoms since of floor.  Full infectious w/u was negative.  LP 
done with CSR neg, UA without suggestion of infection, Blood cx 
were negative.  Pt without evid of sob, cough, good o2 
saturations on RA, and CXR clear.  On ___ pt had mild-mod 
distended ab without pain, with pt still with low grade temps of 
100.6 despite >___ treatment with IV Ceftriaxone/Vanc and po 
flagyl (started for GI coverage ___.  CT A/P ordered.  
Antibiotics continued since admission till ___ - given possible 
LGI malignancy based on new CT a/p - showing diffuse pronounced 
thickened tranverse colon and rectosigmoid, no liver lesion, no 
retroperitoneal LAD, not consistant with colitis as per d/w with 
radiology resident - more malignant appearance.  Based on this 
decision and pt with only low grade temps on Abx but stable - 
trial off abx was done on ___id not have any 
more fevers.  Colonoscopy was done which showed a fungating mass 
in the transverse colon.  Biopsies were done.  There was a 
benign appearing lesion noted in the sigmoid colon which was 
also biopsied.  The patient was seen and evaluated by general 
surgery who agreed to take him to the OR.
 
#. Fe Def Anemia/Chronic Blood loss (recent UGIB):  
Hct remained stable during hospitalization
.
#. DM:  
- Continue insulin sliding scale and home glipizide  
.  
# HTN:  BP controlled without evid of sepsis, cont home 
verapamil.
.
# GERD - change to pantoprazole while in house
.
# Dementia - baseline ___ - which is complete disorientation 
with very poor short-term memory.  Continued trazadone, tried 
holding intially with pt showing sun downing effects.  
.  
#HLP - cont statin
.
# FEN: diabetic diet  
.  
# PPx: Pneumoboots.  
.  
# Code: DNR/DNI as d/w POA this admission - can reverse if 
necessary for GI intervention, full medication treatment 
otherwise requested
.  
=============================================================
He went to the OR on ___ for a Transverse Colon Resection
He did well post-operatively

Pain: His pain was well controlled with Tylenol and Morphine IV 
PRN.

GI/ABD: He followed the colectomy pathway and was started on 
sips on POD 1. His diet was slowly advanced as he was return of 
bowel function. He had a post-op ileus and emesis and so his 
diet was backed off. He then had bowel movements and was 
tolerating a diet.

His incision was opened on POD 5 and lightly packed with moist 
to dry gauze BID.

Dispo: He was seen by ___ and went to rehab for continued care.
 
Medications on Admission:
1. Acetaminophen 325 mg q6 prn  
2. Senna 8.6 mg Tablet bid prn  
3. Atorvastatin 10 mg daily  
4. Trazodone 12.5mg bid  
5. Multivitamin daily  
6. Ferrous Sulfate 325 mg daily  
7. Verapamil 120 mg Tablet Sustained Release daily  
8. Pantoprazole 40 mg daily  
9. Glipizide 5 mg Tablet daily  

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours).  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  

3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Verapamil 120 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
6. Glipizide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Trazodone 50 mg Tablet Sig: 0.25 Tablet PO at bedtime.  
9. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4-6H () as needed. 
 
10. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day): hold for SBP<100 and HR<60.  
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
12. Insulin Glargine 100 unit/mL Solution Sig: Five (5) units 
Subcutaneous at bedtime.  
13. Insulin Lispro 100 unit/mL Solution Sig: Sliding scale  
Subcutaneous four times a day: See sliding scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Colon Adenocarcinoma
Post-op Ileus
Post-op Emesis
Post-op Hyperglycemia
Post-op Wound Infection

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 
back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
.
* Take all new meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
* Continue to increase activity daily 
* No heavy lifting ___ lbs) for 6 weeks.
* You may shower and wash. No tub baths or swimming. 
 
Followup Instructions:
___